US07553833B2
(E)-4-(2,2-dimethylpropoxy)but-3-en-2-one (14 g, 90 mmol) and triethylamine (10 g, 101 mmol) were combined in ethyl ether (200 mL). Trimethylsilyl trifluoromethanesulfonate (20 g, 90 mmol) (Aldrich) in carbon tetrachloride (30 mL) was added at −5° C. over 0.5 hr. This was stirred for 0.5 hr at 0° C. This was poured into cold 5% sodium bicarbonate (50 mL) and the organics were extracted into hexane. This was washed with saturated aqueous sodium chloride, dried (MgSO4), and evaporated to give 21 g of [(E)-3-(2,2-dimethylpropoxy)-1-methylene-allyloxy]trimethylsilane.

reactant | (E)-4-(2,2-dimethylpropoxy)but-3-en-2-one | 90 mmol, 14 g | CC(CO/C=C/C(C)=O)(C)C | C9H16O2
reactant | triethylamine | 101 mmol, 10 g | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilyl trifluoromethanesulfonate | 90 mmol, 20 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | [(E)-3-(2,2-dimethylpropoxy)-1-methylene-allyloxy]trimethylsilane | 21 g | CC(CO/C=C/C(O[Si](C)(C)C)=C)(C)C | C12H24O2Si
